US04873237
2,3-Dihydro-2-phenylthiazolo[3,2-a]benzimidazole
(1,2-Dibromoethyl)benzene (21 g) was treated with 2-mercaptobenzimidazole (17 g) in dimethylformamide (100 ml) and the mixture was heated at 100° C. for 36 hours. On cooling, the solid material was removed by filtration and recrystallised from methanol and ethyl acetate to give the title compound as the hydrobromide salt (13.68 g). mp 207°-210° C.

reactant | (1,2-Dibromoethyl)benzene | 21 g | BrC(CBr)C1=CC=CC=C1 | C8H8Br2
reactant | 2-mercaptobenzimidazole | 17 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-2-phenylthiazolo[3,2-a]benzimidazole | C1(=CC=CC=C1)C1CN2C(=NC3=C2C=CC=C3)S1 | C15H12N2S
